US08710038B2
To a solution of acetone (15.30 g, 263.76 mmol) in a mixture of ethanol (35 mL) and water (15 mL) were added sodium hydroxide (2.90 g, 72.54 mmol) and 4-hydroxy-3-methoxybenzaldehyde (5.01 g, 32.97 mmol). The reaction mixture was stirred at room temperature for 15 h. The reaction was cooled to 0° C. and quenched with 2.0 N hydrochloric acid until the solution became slightly acidic. The solution was extracted with ethyl acetate (4×100 mL). The combined organic layers were washed with water (50 mL) and saturated aqueous sodium chloride (50 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated at reduced pressure to afford 4-(4-hydroxy-3-methoxy-phenyl)but-3-ene-2-one (5.52 g, 87% yield) as a yellow solid: MS (EI) for C11H12O3: 193 (MH+).

reactant | acetone | 263.76 mmol, 15.30 g | CC(=O)C | C3H6O
reactant | sodium hydroxide | 72.54 mmol, 2.90 g | [OH-].[Na+]
reactant | 4-hydroxy-3-methoxybenzaldehyde | 32.97 mmol, 5.01 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 4-(4-hydroxy-3-methoxy-phenyl)but-3-ene-2-one | 5.52 g, 87% yield | OC1=C(C=C(C=C1)C=CC(C)=O)OC | C11H12O3
